US07091214B2
8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and 4-tert-butylbenzeneboronic acid were coupled according to the general procedure described in Part J of Example 1. Recrystallization from isopropanol followed by chromatography on silica gel (7% methanol in CH2Cl2) afforded 8-(4-tert-butylphenyl)-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. >250° C.

reactant | 8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C14H15BrN4
reactant | 4-tert-butylbenzeneboronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 8-(4-tert-butylphenyl)-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C24H28N4
